### PR TITLE
Rings

### PR DESCRIPTION
**Pull request by Alizter**
<s>In this PR we create a new folder in Algebra named `Rings`. In it we define commutative rings, ideals and quotient rings leading to a proof of the first isomorphism theorem for rings. We also define the ring of integers and show it is initial in the wild category of rings. I've made this a draft for now, since there are a few things I need to check over, but the reviewing can begin anyway.</s>

---

Here is a summary of this PR:

 * In `Algebra/Groups/Subgroup.v` we show that 1 and G are subgroups of G. I've opted to calling these both trivial subgroups but I am not aware of a better name. 1 is `trivial_subgroup` and G is `trivial_subgroup'`.
 * A file called `Algebra/Rings.v` which indexes the following:
   - A file `Algebra/Rings/CRing.v` which contains the definition of a commutative ring, ring homomorphisms, ring isomorphisms and defines the wild category of rings.
   - A file called `Algebra/Rings/Ideal.v` which defines ideals (of commutative rings). We also define the kernel of a ring homomorphism as an ideal.
   - A file called `Algebra/Rings/QuotientRing.v` which defines the quotient of a ring by an ideal. We define the image of a ring homomorphism and we also prove the first isomorphism theorem for rings.
  - A file called `Algebra/Rings/Z.v` which defines the ring of integers. It builds upon the abelian group of integers defined in `Algebra/AbGroups/Z.v`. We define multiplying by an integer in any ring. We show that this operation preserves addition and multiplication so is therefore a ring homomorphism. This allows us to finally show that the integers are the initial ring in the wildcat of commutative rings.
* In order to construct the ring of integers we had to show all the remaining ring laws in `Spaces/Int/Spec.v`.

### CODE REVIEW

File: theories/Algebra/Rings.v [hunk 1]
```diff
@@ -0,0 +1,8 @@
+(** Basic theory *)
+
+Require Export HoTT.Algebra.Rings.CRing.
+Require Export HoTT.Algebra.Rings.Ideal.
+
+(** Examples *)
+
+Require Export HoTT.Algebra.Rings.Z.
```
Comment (Alizter) [inline theories/Algebra/Rings.v:8]:
```suggestion
Require Export HoTT.Algebra.Rings.Z.

```

File: theories/Algebra/Rings/Z.v [hunk 2]
```diff
@@ -0,0 +1,235 @@
...
+
+(** Standard integer operations on commutative rings *)
+Definition cring_int_mul (R : CRing) (z : cring_Z) : R
+  := match z with
+     | neg z => pos_peano_rec R (-1) (fun n nr => -1 + nr) z
+     | 0%int => 0
+     | pos z => pos_peano_rec R 1 (fun n nr => 1 + nr) z
+     end.
+
+(** TODO: clean up *)
```
Comment (Alizter) [inline theories/Algebra/Rings/Z.v:40]: Actually do this.

**Comment by Alizter** [comment]
The name TrivialAbGroup has changed, which is why it doesn't compile. I will fix this later.

**Comment by Alizter** [comment]
rebased

File: theories/Algebra/Rings/CRing.v [hunk 3]
```diff
@@ -0,0 +1,246 @@
+Require Import Basics Types WildCat.
+Require Export Classes.interfaces.abstract_algebra.
+Require Import Algebra.AbGroups.
+Require Export Classes.theory.rings.
+
+(** Theory of commutative rings *)
+
+(** TODO: in reality we should really develop the theory of non-commutative rings seperately, and have commutative rings as a special case of that theory. Similar to how we have Group and AbGroup.
+
+But since we are only interested in commutative rings for the time being, it makes sense to only consider them.
```
Comment (Alizter) [inline theories/Algebra/Rings/CRing.v:10]:
```suggestion
(** TODO: in reality we should really develop the theory of non-commutative rings seperately, and have commutative rings as a special case of that theory. Similar to how we have Group and AbGroup. But since we are only interested in commutative rings for the time being, it makes sense to only consider them.
```

File: theories/Algebra/Rings/CRing.v [hunk 4]
```diff
@@ -0,0 +1,246 @@
...
+  cring_zero : Zero cring_type;
+  (** A one *)
+  cring_one  : One  cring_type;
+  (** A negation *)
+  cring_negate : Negate cring_type;
+  (** Such that this data satisfies the axioms of a commmutative ring. *)
+  cring_isring : IsRing cring_type;
+}.
+
+Arguments cring_type {_}.
```
Comment (Alizter) [inline theories/Algebra/Rings/CRing.v:31]: Might be worth removing this due to experience with `group_type`.

File: theories/Algebra/Rings/Ideal.v [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+Global Instance issubgroup_trivial {G : Group} : IsSubgroup abgroup_trivial G.
+Proof.
+  snrapply Build_IsSubgroup.
+  { snrapply (Build_GroupHomomorphism (fun _ => group_unit)).
+    intros ??; symmetry; apply left_identity. }
+  cbn; intros ???.
+  apply path_unit.
+Defined.
+
+(** TODO: Move somewhere more useful *)
```
Comment (Alizter) [inline theories/Algebra/Rings/Ideal.v:36]: Do this

File: theories/Algebra/Rings/Ideal.v [hunk 6]
```diff
@@ -0,0 +1,119 @@
...
+(** TODO: Move to Subgroup.v *)
+Global Instance issubgroup_group {G : Group} : IsSubgroup G G
+  := Build_IsSubgroup _ _ grp_homo_id _.
+
+(** TODO: Move to Subgroup.v *)
+Definition trivial_subgroup {G} : Subgroup G
+  := Build_Subgroup G abgroup_trivial _.
+
+(** TODO: Move to Subgroup.v *)
+(** TODO: Rename? *)
```
Comment (Alizter) [inline theories/Algebra/Rings/Ideal.v:49]: Do this

File: theories/Algebra/Rings/Ideal.v [hunk 7]
```diff
@@ -0,0 +1,119 @@
...
+
+(** TODO: Move somewhere more useful *)
+Global Instance isinj_idmap A : @IsInjective A A idmap
+  := fun x y => idmap.
+
+(** TODO: Move to Subgroup.v *)
+Global Instance issubgroup_group {G : Group} : IsSubgroup G G
+  := Build_IsSubgroup _ _ grp_homo_id _.
+
+(** TODO: Move to Subgroup.v *)
```
Comment (Alizter) [inline theories/Algebra/Rings/Ideal.v:44]: Do this

File: theories/Algebra/Rings/Ideal.v [hunk 8]
```diff
@@ -0,0 +1,119 @@
...
+    intros ??; symmetry; apply left_identity. }
+  cbn; intros ???.
+  apply path_unit.
+Defined.
+
+(** TODO: Move somewhere more useful *)
+Global Instance isinj_idmap A : @IsInjective A A idmap
+  := fun x y => idmap.
+
+(** TODO: Move to Subgroup.v *)
```
Comment (Alizter) [inline theories/Algebra/Rings/Ideal.v:40]: Do this

File: theories/Algebra/Rings/QuotientRing.v [hunk 9]
```diff
@@ -0,0 +1,163 @@
...
+  1,2: intros [].
+  all: apply path_sigma_hprop; cbn.
+  1: apply distribute_l.
+  1: apply associativity.
+  1: apply commutativity.
+  1: apply left_identity.
+  apply right_identity.
+Defined.
+
+(** TODO: why is this taking so long? *)
```
Comment (Alizter) [inline theories/Algebra/Rings/QuotientRing.v:146]: Investigate this

File: theories/Algebra/Rings/Z.v [hunk 10]
```diff
@@ -0,0 +1,235 @@
...
+    exact int_mul_1_r.
+  + (** Commutativity of integer multiplication *)
+    exact int_mul_comm.
+  + (** Left distributivity *)
+    exact int_mul_add_distr_l.
+Defined.
+
+Local Open Scope mc_scope.
+
+(** Standard integer operations on commutative rings *)
```
Comment (Alizter) [inline theories/Algebra/Rings/Z.v:32]: Move to CRing.v

File: theories/Algebra/Rings/Z.v [hunk 11]
```diff
@@ -0,0 +1,235 @@
...
+    rewrite pos_add_succ_r.
+    rewrite 2 pos_peano_rec_beta_pos_succ.
+    rewrite simple_associativity.
+    rewrite IHy.
+    rewrite simple_associativity.
+    rewrite (commutativity 1).
+    reflexivity.
+Qed.
+
+Lemma cring_int_mul_negate {R} x
```
Comment (Alizter) [inline theories/Algebra/Rings/Z.v:137]: Move to CRing.v

File: theories/Algebra/Rings/Z.v [hunk 12]
```diff
@@ -0,0 +1,235 @@
...
+    simpl.
+    rewrite pos_peano_rec_beta_pos_succ.
+    rewrite int_pos_pos_succ.
+    unfold int_succ.
+    rewrite int_add_comm.
+    rewrite rng_homo_plus.
+    rewrite rng_homo_one.
+    apply ap.
+    exact IHp.
+Defined.
```
Comment (Alizter) [inline theories/Algebra/Rings/Z.v:235]:
```suggestion
Defined.

```

File: theories/Spaces/Pos/Spec.v [hunk 13]
```diff
@@ -204,3 +204,70 @@ Proof.
...
+  : (pos_succ p) * q = p * q + q.
+Proof.
+  by rewrite <- pos_add_1_r, pos_mul_add_distr_r, pos_mul_1_l.
+Qed.
+
+Lemma pos_mul_succ_r p q
+  : p * (pos_succ q) = p + p * q.
+Proof.
+  by rewrite <- pos_add_1_l, pos_mul_add_distr_l, pos_mul_1_r.
+Qed.
```
Comment (Alizter) [inline theories/Spaces/Pos/Spec.v:273]:
```suggestion
Qed.

```

**Comment by mikeshulman** [comment]
More later, but I think the name "trivial subgroup" universally refers to 1, not to G.  See e.g. https://en.wikipedia.org/wiki/Trivial_group.  The subgroup G of G could be called the "maximal subgroup" or the "improper subgroup".

**Comment by Alizter** [comment]
Alright, I've gone with the name `maximal_subgroup`.

File: theories/Algebra/Rings/CRing.v [hunk 14]
```diff
@@ -0,0 +1,241 @@
...
+Coercion abgroup_cring : CRing >-> AbGroup.
+
+(** Underlying group homomorphism of a ring homomorphism *)
+Definition grp_homo_rng_homo {R S : CRing}
+  : CRingHomomorphism R S -> GroupHomomorphism R S
+  := fun f => @Build_GroupHomomorphism R S f _.
+
+Coercion grp_homo_rng_homo : CRingHomomorphism >-> GroupHomomorphism.
+
+(** We can construct a ring homomorphism a group homomorphism that preserves multiplication *)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/CRing.v:165]:
```suggestion
(** We can construct a ring homomorphism from a group homomorphism that preserves multiplication *)
```

File: theories/Algebra/Rings/QuotientRing.v [hunk 15]
```diff
@@ -0,0 +1,162 @@
+Require Import Basics Types WildCat.
+Require Import Algebra.Congruence.
+Require Import Algebra.AbGroups.
+Require Import Algebra.Rings.CRing.
+Require Import Algebra.Rings.Ideal.
+
+(** In this file we define the quotient of a commuative ring by an ideal *)
```
Comment (mikeshulman) [inline theories/Algebra/Rings/QuotientRing.v:7]:
```suggestion
(** In this file we define the quotient of a commutative ring by an ideal *)
```

File: theories/Algebra/Rings/Z.v [hunk 16]
```diff
@@ -0,0 +1,232 @@
...
+  + (** Commutativity of integer multiplication *)
+    exact int_mul_comm.
+  + (** Left distributivity *)
+    exact int_mul_add_distr_l.
+Defined.
+
+Local Open Scope mc_scope.
+
+(** Standard integer operations on commutative rings *)
+Definition cring_int_mul (R : CRing) (z : cring_Z) : R
```
Comment (mikeshulman) [inline theories/Algebra/Rings/Z.v:35]: What is the name `cring_int_mul` supposed to abbreviate?

File: theories/Spaces/Int/Spec.v [hunk 17]
```diff
@@ -347,3 +353,85 @@ Global Instance isequiv_int_succ : IsEquiv int_succ | 0
 
 Definition equiv_int_succ : Int <~> Int
   := Build_Equiv _ _ _ isequiv_int_succ.
+
+(** ** Commutativity of multplication *)
```
Comment (mikeshulman) [inline theories/Spaces/Int/Spec.v:357]:
```suggestion
(** ** Commutativity of multiplication *)
```

**Review by mikeshulman — APPROVED** [review]
Sorry for taking so long.  An impressive amount of work!  I'm surprised, for instance, that it's so hard to show the integers are the initial ring.

File: theories/Algebra/Rings/Z.v (hunk 16 above)
Comment (Alizter) [reply theories/Algebra/Rings/Z.v:35]: Multiplying a ring element by an integer. I really didn't know what to call this.

File: theories/Algebra/Rings/CRing.v [hunk 18]
```diff
@@ -0,0 +1,241 @@
...
+  cring_plus : Plus cring_type;
+  (** A mult operation *)
+  cring_mult : Mult cring_type;
+  (** A zero *)
+  cring_zero : Zero cring_type;
+  (** A one *)
+  cring_one  : One  cring_type;
+  (** A negation *)
+  cring_negate : Negate cring_type;
+  (** Such that this data satisfies the axioms of a commmutative ring. *)
```
Comment (Alizter) [inline theories/Algebra/Rings/CRing.v:24]:
```suggestion
  cring_type : Type;
  cring_plus : Plus cring_type;
  cring_mult : Mult cring_type;
  cring_zero : Zero cring_type;
  cring_one  : One  cring_type;
  cring_negate : Negate cring_type;
```

File: theories/Algebra/Rings/CRing.v [hunk 19]
```diff
@@ -0,0 +1,241 @@
...
+
+Arguments Build_CRingHomomorphism {_ _} _ _.
+
+Definition issig_CRingHomomorphism (A B : CRing)
+  : _ <~> CRingHomomorphism A B
+  := ltac:(issig).
+
+(** We coerce ring homomorphisms to their underlyig maps *)
+Coercion rng_homo_map : CRingHomomorphism >-> Funclass.
+(** And we make rng_homo_ishomo a global instance. *)
```
Comment (Alizter) [inline theories/Algebra/Rings/CRing.v:56]:
```suggestion

```

File: theories/Algebra/Rings/CRing.v [hunk 20]
```diff
@@ -0,0 +1,241 @@
...
+  snrapply Build_CRingHomomorphism.
+  1: exact (f o g).
+  rapply compose_sr_morphism.
+Defined.
+
+(** Ring laws *)
+
+Section RingLaws.
+
+  (** Many of these ring laws have already been prove. But we give them names here so that they are easy to find and use. *)
```
Comment (Alizter) [inline theories/Algebra/Rings/CRing.v:83]:
```suggestion
  (** Many of these ring laws have already been proven. But we give them names here so that they are easy to find and use. *)
```

File: theories/Algebra/Rings/Z.v (hunk 10 above)
Comment (Alizter) [reply theories/Algebra/Rings/Z.v:34]: For reference this can't be done.

File: theories/Algebra/Rings/Z.v (hunk 16 above)
Comment (Alizter) [reply theories/Algebra/Rings/Z.v:35]: I will make the comment more descriptive.

File: theories/Algebra/Rings/Z.v [hunk 21]
```diff
@@ -0,0 +1,232 @@
...
+    exact int_mul_1_r.
+  + (** Commutativity of integer multiplication *)
+    exact int_mul_comm.
+  + (** Left distributivity *)
+    exact int_mul_add_distr_l.
+Defined.
+
+Local Open Scope mc_scope.
+
+(** Standard integer operations on commutative rings *)
```
Comment (Alizter) [inline theories/Algebra/Rings/Z.v:34]:
```suggestion
(** Multiplication of a ring element by an integer. *)
```

**Comment by Alizter** [comment]
> Sorry for taking so long. An impressive amount of work! I'm surprised, for instance, that it's so hard to show the integers are the initial ring.

I did not enjoy working with the integers, or at least setting up the basic lemmas. It seems to really rely on your "implementation". I'm sure there are some clever shortcuts in many of the proofs but this is what worked. Since a lot of lemmas about integers are left opaque (since they are equalities in a hset) I never bothered to clean up the proofs.

Much of this work was carried out when we were all chatting to Kevin Buzzard on Zulip. I have a formalization of localization of rings (as a HIT) sitting around which uses the stuff here. Hopefully it will be a PR soon. This was mostly to show that a definition of scheme *could* be written down in HoTT, whether or not that is a useful thing to do is an entirely different question. :-)

I think rings are good to have in a library that will soon have more homotopy theory (hopefully). We can use them to define R-modules, constructive commutative algebra, cohomology rings etc. I just don't really have the time to do all those wonderful things at the moment.

**Comment by mikeshulman** [comment]
Oh absolutely, it is great to have.

File: theories/Algebra/Rings/Z.v (hunk 16 above)
Comment (mikeshulman) [reply theories/Algebra/Rings/Z.v:35]: I thought this was the unique ring homomorphism from Z to R.  Is that "multiplying a ring element by an integer"?

Comment (Alizter) [reply theories/Algebra/Rings/Z.v:35]: Yes, I suppose so. Do you have a good name in mind?

Comment (mikeshulman) [reply theories/Algebra/Rings/Z.v:35]: Umm... `ring_catamorphism`?  (-:O

Comment (mikeshulman) [reply theories/Algebra/Rings/Z.v:35]: A [catamorphism](https://en.wikipedia.org/wiki/Catamorphism) is "the unique homomorphism from an initial algebra into some other algebra".  Category theorists don't really use that word, but I gather that functional programmers sometimes do.  We could say `ring_catamorphism_fun` for the underlying function and `ring_catamorphism` for the ring homomorphism object itself.

Comment (Alizter) [reply theories/Algebra/Rings/Z.v:35]: I guess I am one of the lucky 10,000 today :-)

I'll cobble something together later on this week changing the name. I will also include a comment explaining this terminology.

**Comment by Alizter** [comment]
@mikeshulman I think that's all your suggestions taken into account. Feel free to merge!

**Comment by Alizter** [comment]
Something changed upstream in coq which caused the master job to fail.

**Comment by Alizter** [comment]
In detail, the ocaml library zarith 1.9.1 is installed however 1.10 is required. @JasonGross are the ppas not installing 1.10 currentely?

**Comment by JasonGross** [comment]
Should be fixed now if you rebuild
